US07084169B2
2-Benzenesulfonyl-7-[2-(tert-butoxycarbonyl-methyl-amino)-ethoxy]-indole-1-carboxylic acid tert-butyl ester (0.230 g., 0.43 mmol) from the above step was dissolved in 5 mL EtOH. To this solution was added 1 mL of 2M ethanolic hydrogen chloride solution. The reaction mixture was heated at 100° C. for 35 minutes. Upon cooling to ambient temperature, a fine white precipitate was observed. After filtration and drying in vacuo at 60° C., [2-(2-Benzenesulfonyl-1H-indol-7-yloxy)-ethyl]-methyl-amine hydrochloride was obtained as 0.140 g. white crystals. MS: 329 (M−H)−, mp=289.4–291.6° C.

reactant | 2-Benzenesulfonyl-7-[2-(tert-butoxycarbonyl-methyl-amino)-ethoxy]-indole-1-carboxylic acid tert-butyl ester | 0.43 mmol, 0.230 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC(=C12)OCCN(C)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=CC=C1 | C27H34N2O7S
reactant | hydrogen chloride | 2M, 1 mL | Cl | ClH
solvent | EtOH | 5 mL | CCO | C2H6O
product | [2-(2-Benzenesulfonyl-1H-indol-7-yloxy)-ethyl]-methyl-amine hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)C=1NC2=C(C=CC=C2C1)OCCNC | InChI=1S/C17H18N2O3S.ClH/c1-18-10-11-22-15-9-5-6-13-12-16(19-17(13)15)23(20,21)14-7-3-2-4-8-14;/h2-9,12,18-19H,10-11H2,1H3;1H
